US05635510
62.2 Synthesis of 4-(3,4-dichloro-phenyl)-4-(3-hydroxy-propyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidine
Prepare according to the method of example 11.5 using 4-(3,4-dichloro-phenyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-1-(3,4,5-trimethoxy-benzyl)-pyrrolidine (3 mmol) and p-toluenesulfonic acid (200 mg). Chromatograph on silica gel to give the title compound.

reactant | 4-(3,4-dichloro-phenyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-1-(3,4,5-trimethoxy-benzyl)-pyrrolidine | 3 mmol | ClC=1C=C(C=CC1Cl)C1(CCN(C1)CC1=CC(=C(C(=C1)OC)OC)OC)CCCOC1OCCCC1 | C28H37Cl2NO5
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-(3,4-dichloro-phenyl)-4-(3-hydroxy-propyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidine | ClC=1C=C(C=CC1Cl)C1(CCN(C1)CC1=CC(=C(C(=C1)OC)OC)OC)CCCO | C23H29Cl2NO4
